US07973063B2
c) Preparation of tert-Butyl (4′-formylbiphenyl-3-yl)methylcarbamate
307 ml (615 mmol) of an aqueous potassium carbonate solution (2M) are added dropwise to a mixture of 61.5 g (205 mmol) of tert-butyl (3-bromobenzyl)-N-methylcarbamate, 46 g (307 mmol) of 4-formylbenzeneboronic acid and 500 ml of toluene. The reaction medium is subsequently degassed with argon and 7 g (6.2 mmol) of tetrakis(triphenylphosphine)palladium(0) are added. After heating at 90° C. for 24 hours, the reaction medium is poured into water and extracted with ethyl acetate. The organic phase is separated by settling, dried over magnesium sulfate and evaporated. The residue obtained is purified by chromatography on a silica column eluted with a mixture of heptane and ethyl acetate (70/30). After evaporating the solvents, 67 g of tert-butyl (4′-formylbiphenyl-3-yl)methylcarbamate are collected. Yield=60%.

reactant | potassium carbonate | 615 mmol, 2M, 307 ml | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl (3-bromobenzyl)-N-methylcarbamate | 205 mmol, 61.5 g | BrC=1C=C(CN(C(OC(C)(C)C)=O)C)C=CC1 | C13H18BrNO2
reactant | 4-formylbenzeneboronic acid | 307 mmol, 46 g | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 6.2 mmol, 7 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | tert-Butyl (4′-formylbiphenyl-3-yl)methylcarbamate | Yield=60% | C(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)CNC(OC(C)(C)C)=O | C19H21NO3
